US06995144B2
After dissolving 1.75 ml of 1-bromo-2-chlorobenzene in 30 ml of tetrahydrofuran, the solution was cooled to −78° C. Next, 5.31 ml of n-butyllithium (2.6 M, n-hexane solution) was added dropwise thereto while stirring and after 1 hour, a solution of 2.50 g of 1-benzylpiperidine-4-acetaldehyde in tetrahydrofuran (10 ml) was added and stirring was continued for 1 hour. After adding water to the reaction solution, the temperature was raised to room temperature and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain 2-(1-benzylpiperidin-4-yl)-1-(2-chlorophenyl)ethanol.

reactant | 1-bromo-2-chlorobenzene | 1.75 ml | BrC1=C(C=CC=C1)Cl | C6H4BrCl
reactant | n-butyllithium | 2.6 M, 5.31 ml | C(CCC)[Li]
reactant | 1-benzylpiperidine-4-acetaldehyde | 2.50 g | C(C1=CC=CC=C1)N1CCC(CC1)CC=O | C14H19NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(1-benzylpiperidin-4-yl)-1-(2-chlorophenyl)ethanol | C(C1=CC=CC=C1)N1CCC(CC1)CC(O)C1=C(C=CC=C1)Cl | C20H24ClNO
